datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=C/C=C/C(C)C(=O)[O-])[C@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(=C/C=C/C(C)C(=O)[O-])[C@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C(=C(c1ccccc1)[O:21][H:20])c1ccccn1.N#CC1C[N:10]2CCC1CC2>>C(=C(c1ccccc1)[O-:21])c1ccccn1.N#CC1C[N+:10]2([H:20])CCC1CC2 10=20;20,21=21",
"CC1CCn2nnnc2C(C(=O)[O-:10])C1.CNC=[N+:21](c1cccc(-c2csc(N=C(N)N)n2)c1)[H:20]>>CC1CCn2nnnc2C(C(=O)[O:10][H:20])C1.CNC=[N:21]c1cccc(-c2csc(N=C(N)N)n2)c1 10=20;20,21=21",
"CC(C)C(O[C@H]1O[C@@H](C(=O)[O-:10])[C@H](O)[C@@H](O)[C@@H]1O)C(C)C.CCC1=C2C(=[N+:21]([H:20])c3ccccc32)N(C)C(Cl)=C1>>CC(C)C(O[C@H]1O[C@@H](C(=O)[O:10][H:20])[C@H](O)[C@@H](O)[C@@H]1O)C(C)C.CCC1=C2C(=[N:21]c3ccccc32)N(C)C(Cl)=C1 10=20;20,21=21",
"CC[NH:10]CCCC(=O)[O-].C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC[NH+:10](CCCC(=O)[O-])[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CN1C(=S)[N-:10]C(=O)C12CCCCC2.CN1C2=C(CCCC2)SC1=[N+:21](C)[H:20]>>CN1C(=S)[N:10]([H:20])C(=O)C12CCCCC2.CN1C2=C(CCCC2)SC1=[N:21]C 10=20;20,21=21",
"C[Si](C)(C)OC1C[N:10](Cc2ccc(F)cc2)C1.O=[N+]([O-])c1cc(Cl)ccc1C[NH2+:21][H:20]>>C[Si](C)(C)OC1C[N+:10](Cc2ccc(F)cc2)([H:20])C1.O=[N+]([O-])c1cc(Cl)ccc1C[NH2:21] 10=20;20,21=21",
"COc1cccc([NH+:21](c2ccccc2)[H:20])c1.[O-]c1ccc[n:10]c1>>COc1cccc([NH:21]c2ccccc2)c1.[O-]c1ccc[n+:10]([H:20])c1 10=20;20,21=21",
"CC1CCCC[NH:10]1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC1CCCC[NH+:10]1[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCCC[NH:10]CC(=O)c1ccc(O)cc1.Cn1c[n+:21]([H:20])c(C(=O)[O-])c1C(=O)[O-]>>CCCC[NH+:10](CC(=O)c1ccc(O)cc1)[H:20].Cn1c[n:21]c(C(=O)[O-])c1C(=O)[O-] 10=20;20,21=21",
"CC(C)[NH:10]C[Si](C)(C)C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)[NH+:10](C[Si](C)(C)C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N:21](CCC(N)=[NH2+])[H:20])cc1.c1c[nH+]c(Cc2[nH]cc(Cc3c[nH]c[nH+]3)[n:10]2)[nH]1>>Cc1ccc(S(=O)(=O)[N-:21]CCC(N)=[NH2+])cc1.c1c[nH+]c(Cc2[nH]cc(Cc3c[nH]c[nH+]3)[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2cn[nH]c2[n:10]1.C[Si](C)(C)OC1C[N+:21](Cc2ccccc2)([H:20])C1>>COc1cc(S(C)=O)ccc1-c1[nH]c2cn[nH]c2[n+:10]1[H:20].C[Si](C)(C)OC1C[N:21](Cc2ccccc2)C1 10=20;20,21=21",
"CC1[C@H]([NH3+])[C@H]1[NH2+:21][H:20].O=C(C1=C(CO)CCC1)[O-:10]>>CC1[C@H]([NH3+])[C@H]1[NH2:21].O=C(C1=C(CO)CCC1)[O:10][H:20] 10=20;20,21=21",
"CC(C)C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[nH+]1)C(=O)[O-:10].c1ccc(CSc2cc[n+:21]([H:20])cc2)cc1>>CC(C)C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[nH+]1)C(=O)[O:10][H:20].c1ccc(CSc2cc[n:21]cc2)cc1 10=20;20,21=21",
"C=CC(C)(C)[NH+:21](C(C)(C)CC)[H:20].O=C1NC(CC(=O)[O-:10])Oc2ccccc21>>C=CC(C)(C)[NH:21]C(C)(C)CC.O=C1NC(CC(=O)[O:10][H:20])Oc2ccccc21 10=20;20,21=21",
"Cc1n[nH]c(C(=O)[O:21][H:20])c1[N+](=O)[O-].[NH3+][C@H]1CCC[C@@H](C(=O)[O-:10])C1>>Cc1n[nH]c(C(=O)[O-:21])c1[N+](=O)[O-].[NH3+][C@H]1CCC[C@@H](C(=O)[O:10][H:20])C1 10=20;20,21=21",
"C=CC(C)(C)[NH:10]C(C)(C)C=C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C=CC(C)(C)[NH+:10](C(C)(C)C=C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC=C(Cl)C(=O)[O-:10].COc1ccc([NH+:21](C)[H:20])cc1>>CC=C(Cl)C(=O)[O:10][H:20].COc1ccc([NH:21]C)cc1 10=20;20,21=21",
"O=C(CNS(=O)(=O)c1ccccc1)NCC(=O)[O-:10].[NH3+]CC(=O)N1CCCC1C(=O)[O:21][H:20]>>O=C(CNS(=O)(=O)c1ccccc1)NCC(=O)[O:10][H:20].[NH3+]CC(=O)N1CCCC1C(=O)[O-:21] 10=20;20,21=21",
"COc1cccc(C[N:10]2CC(O[Si](C)(C)C)C2)c1.Nc1cc[n+:21]([H:20])c2c1ncn2CCOCP(=O)(O)O>>COc1cccc(C[N+:10]2([H:20])CC(O[Si](C)(C)C)C2)c1.Nc1cc[n:21]c2c1ncn2CCOCP(=O)(O)O 10=20;20,21=21",
"CCCCC[N:10](CC(C)O)CC(C)O.Cc1ccc(N[N+:21](=C(C#N)C#N)[H:20])cc1>>CCCCC[N+:10](CC(C)O)(CC(C)O)[H:20].Cc1ccc(N[N:21]=C(C#N)C#N)cc1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CC(O)C[NH2:10]>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CC(O)C[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)C(C)C(C)(C)C(=O)[O-:10].C[n+]1c([O-])cc[n+:21]([H:20])c1[O-]>>CC(=O)C(C)C(C)(C)C(=O)[O:10][H:20].C[n+]1c([O-])cc[n:21]c1[O-] 10=20;20,21=21",
"C1C[NH:10]CC[NH2+]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C1C[NH+:10]([H:20])CC[NH2+]1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"ClCC1C[N+:21]2([H:20])CCC1CC2.Oc1cccc([O-:10])c1>>ClCC1C[N:21]2CCC1CC2.Oc1cccc([O:10][H:20])c1 10=20;20,21=21",
"CC(C)(/C=C/C(=O)[O:21][H:20])c1cc([N+](=O)[O-])ccc1O.NCc1ccccc1S(=O)(=O)[NH-:10]>>CC(C)(/C=C/C(=O)[O-:21])c1cc([N+](=O)[O-])ccc1O.NCc1ccccc1S(=O)(=O)[NH:10][H:20] 10=20;20,21=21",
"O=C(c1ccccc1/N=C/C=C/c1ccccc1)[O:21][H:20].c1ccc(-c2cccc(-c3cccc[n:10]3)n2)nc1>>O=C(c1ccccc1/N=C/C=C/c1ccccc1)[O-:21].c1ccc(-c2cccc(-c3cccc[n+:10]3[H:20])n2)nc1 10=20;20,21=21",
"CC(C[N:10](C)C)=N[O-].CSc1ccccc1C(=O)[O:21][H:20]>>CC(C[N+:10](C)(C)[H:20])=N[O-].CSc1ccccc1C(=O)[O-:21] 10=20;20,21=21",
"Nc1nc[n+:21]([H:20])c2[nH]cnc12.c1c[nH+]c([O-:10])cn1>>Nc1nc[n:21]c2[nH]cnc12.c1c[nH+]c([O:10][H:20])cn1 10=20;20,21=21",
